US05306728
A 1M tetrahydrofuran solution (0.6 ml) of lithium bis-(trimethylsilyl)amide was added to 1 ml of tetrahydrofuran under an argon atmosphere, and the mixture was cooled to -78° C. To this solution were added, dropwise with stirring, a tetrahydrofuran solution (2 ml) of 125 mg of (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-4-oxo-pentylamine, followed by a tetrahydrofuran solution (2 ml) of 94 mg of 3-(3-thienyl)benzaldehyde. The mixture was stirred at -78° C. for 1 hour, and then at 0° C. for 1 hour. The reaction mixture was neutralized with acetic acid, and ethyl acetate and water were added to extract it. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The desiccant was separated by filtration, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography [ethyl acetate→ethyl acetate/methanol=20/1] to give 78 mg (yield 40%) of (E)-N-ethyl-N-( 6,6-dimethyl-2-hepten-4-ynyl)-6-hydroxy-4-oxo-6-[3-(3-thienyl)phenyl]hexenylamine.

reactant | tetrahydrofuran | 1M, 0.6 ml | O1CCCC1 | C4H8O
reactant | lithium bis-(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-4-oxo-pentylamine | 125 mg | C(C)N(C\C=C\C#CC(C)(C)C)CCCC(C)=O | C16H27NO
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | 3-(3-thienyl)benzaldehyde | 94 mg | S1C=C(C=C1)C=1C=C(C=O)C=CC1 | C11H8OS
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (E)-N-ethyl-N-( 6,6-dimethyl-2-hepten-4-ynyl)-6-hydroxy-4-oxo-6-[3-(3-thienyl)phenyl]hexenylamine | 78 mg, yield 40% | C(C)N(CC=CC#CC(C)(C)C)\C=C\CC(CC(C1=CC(=CC=C1)C1=CSC=C1)O)=O | C27H33NO2S
